simulator lang=spectre

global 0

include "/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.1/models/sky130.lib.spice" section=tt


simulator lang =spice

*.include "/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.1/models/sky130.lib.spice" section=tt

.param W = 0.5u
.param VGS = 0 

V1 vdd 0 DC 1.8 
V2 vg 0 DC VGS
V3 vo 0 DC 1.5
*I1 vdd vd DC 7.5u 

M1 vo 0 vdd vdd sky130_fd_pr__pfet_01v8 l=0.25u nf=1 w=0.48u 

.dc W 2u 4u 0.05

*.ac dec 100 1000 100M

.probe ac v(vdd) i(I2) v(vs)

simulator lang=spectre
save *:oppoint sigtype=dev
saveopts options save=all


simulator lang=spice
.measure dc i0.5 FIND i(M1) WHEN W=0.5u
.measure dc i1 FIND i(M1) WHEN W=1u
.measure dc i1.5 FIND i(M1) WHEN W=1.5u
.measure dc i2 FIND i(M1) WHEN W=2u
.measure dc i2.5 FIND i(M1) WHEN W=2.5u
.measure dc i3 FIND i(M1) WHEN W=3u
.measure dc i3.5 FIND i(M1) WHEN W=3.5u
.measure dc i4 FIND i(M1) WHEN W=4u
.measure dc i4.5 FIND i(M1) WHEN W=4.5u
.measure dc i5 FIND i(M1) WHEN W=5u
.measure dc i5.5 FIND i(M1) WHEN W=5.5u
.measure dc i6 FIND i(M1) WHEN W=6u
.measure dc i6.5 FIND i(M1) WHEN W=6.5u
.measure dc i7 FIND i(M1) WHEN W=7u
.measure dc i7.5 FIND i(M1) WHEN W=7.5u
.measure dc i8 FIND i(M1) WHEN W=8u
.measure dc i8.5 FIND i(M1) WHEN W=8.5u
.measure dc i9 FIND i(M1) WHEN W=9u
.measure dc i9.5 FIND i(M1) WHEN W=9.5u
.measure dc i10 FIND i(M1) WHEN W=10u
.measure dc i10.5 FIND i(M1) WHEN W=10.5u
.measure dc i11 FIND i(M1) WHEN W=11u
.measure dc i11.5 FIND i(M1) WHEN W=11.5u
.measure dc i12 FIND i(M1) WHEN W=12u
.measure dc i12.5 FIND i(M1) WHEN W=12.5u
.measure dc i13 FIND i(M1) WHEN W=13u
.measure dc i13.5 FIND i(M1) WHEN W=13.5u
.measure dc i14 FIND i(M1) WHEN W=14u
.measure dc i14.5 FIND i(M1) WHEN W=14.5u
.measure dc i15 FIND i(M1) WHEN W=15u
.measure dc i15.5 FIND i(M1) WHEN W=15.5u
.measure dc i16 FIND i(M1) WHEN W=16u
.measure dc i16.5 FIND i(M1) WHEN W=16.5u
.measure dc i17 FIND i(M1) WHEN W=17u
.measure dc i17.5 FIND i(M1) WHEN W=17.5u
.measure dc i18 FIND i(M1) WHEN W=18u
.measure dc i18.5 FIND i(M1) WHEN W=18.5u
.measure dc i19 FIND i(M1) WHEN W=19u
.measure dc i19.5 FIND i(M1) WHEN W=19.5u
.measure dc i20 FIND i(M1) WHEN W=20u
